US06174889B1
(1-Benzyl-1H-indazol-5-yl)-(6-(4-methyl-piperazin-1-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine
4-Methylpiperazine was reacted with (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine as in Example 24 to give the title compound (Procedure C); δH [2H6]DMSO 9.80(1H,s), 8.82(1H,s), 8.47(1H,s), 8.23(1H,s), 8.15(1H,s), 7.75(1H,d), 7.67(1H,d), 7.54(1H,s), 7.28(5H,m), 5.68(2H,s) 3.64(4H,m), 3.34(4H,m), 2.27(3H,s); m/z (M+) 451.

reactant | 4-Methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | (1-Benzyl-1H-indazol-5-yl)-(6-chloro-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)Cl | C21H15ClN6
product | (1-Benzyl-1H-indazol-5-yl)-(6-(4-methyl-piperazin-1-yl)-pyrido[3,4-d]pyrimidin-4-yl)-amine | C(C1=CC=CC=C1)N1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)C=NC(=C2)N2CCN(CC2)C | C26H26N8
